US05591862
According to the method described for Reference Example 45, 4-chloromethyl-5-methyl-2-(2-naphthyl)oxazole was allowed to react with p-hydroxybenzaldehyde to give 4-[5-methyl-2-(2-naphthyl)-4-oxazolylmethoxy]benzaldehyde. Recrystallization from chloroform-ether gave colorless prisms, m.p.163°-164° C.

reactant | 4-chloromethyl-5-methyl-2-(2-naphthyl)oxazole | ClCC=1N=C(OC1C)C1=CC2=CC=CC=C2C=C1 | C15H12ClNO
reactant | p-hydroxybenzaldehyde | OC1=CC=C(C=O)C=C1 | C7H6O2
product | 4-[5-methyl-2-(2-naphthyl)-4-oxazolylmethoxy]benzaldehyde | CC1=C(N=C(O1)C1=CC2=CC=CC=C2C=C1)COC1=CC=C(C=O)C=C1 | C22H17NO3
